Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
double vision, slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Neurology at bedside for evaluation after code stroke activation 
within: 5 minutes

Time/Date the patient was last known well: ___ 1600 

___ mRS ___ social history for description): 0

___ Administration
[] Yes - Time given:
[x] No - Reason ___ was not given/considered: tPA considered 
but not administered given mildness of stroke. Low NIHSS, Pt was 
informed of risks of bleeding and benefits of tPA, declined to 
receive. 

Endovascular intervention: []Yes [x]No

I was present during the CT scanning and reviewed the images 
within 20 minutes of their completion.

___ Stroke Scale - Total [0]

1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0 
2. Best Gaze - 0
3. Visual Fields - 0 
4. Facial Palsy - 0 
5a. Motor arm, left - 0
5b. Motor arm, right - 0
6a. Motor leg, left - 0
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 0
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

HPI: Mr. ___ is a ___ with a history of uncontrolled HTN and 
HLD brought in by EMS, presenting with hyperacute onset of 
vertical diplopia worst on L lateral gaze, LKW 1600 hrs ___. 
There was also reported transient facial droop (unclear what 
side) as well as dysarthria from his son who called EMS upon pt 
report of diplopia, though the patient denied feeling dysarthric 
or that his face looked different on history. 

He reports that this was an otherwise normal day for him at home 
when suddenly he began having double vision in primary gaze and 
described this as one object being "on top of the other". The 
diplopia was made worse on L lateral gaze. It has persisted 
without getting frankly worse. He reports that he had one 
similar episode of visual disturbance a few years ago where his 
vision went "blurry," but cannot otherwise remember the details 
aside from eating concentrated sweets the day before his symptom 
onset. Today, he reports that he ate some candy yesterday and 
attributes his presentation possibly to this. 

ROS: On neurologic review of systems, vertical diplopia as 
above. The patient denies headache, lightheadedness, or 
confusion. Denies difficulty with producing or comprehending 
speech. Denies loss of vision, blurred vision, vertigo, 
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies 
focal muscle weakness, numbness, parasthesia. Denies loss of 
sensation. Denies bowel or bladder incontinence or retention. 
Denies difficulty with gait.

On general review of systems, the patient denies recent viral or 
GI illness, fevers, rigors, night sweats, or noticeable weight 
loss. Denies chest pain, palpitations, dyspnea, or cough. Denies 
nausea, vomiting, diarrhea, constipation, or abdominal pain.  No 
recent change in bowel or bladder habits.  Denies dysuria or 
hematuria. Denies myalgias, arthralgias, or rash.

 
Past Medical History:
-HTN, no meds
-HLD on pravastatin 
 
Social History:
___
Family History:
Multiple brothers with CAD; No history of stroke in early age, 
no other neurological history.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals:  HR: ___   BP: ___ RR: 16 SaO2: 100%RA
General:  NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple, no 
meningismus 
___: RR
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to register 3 
objects and recall ___ at 5 minutes, ___ with multiple choice. 
Able to relate history without difficulty. Attentive, able to 
name ___ backward without difficulty. Speech is fluent with full 
sentences, intact repetition, and intact verbal comprehension. 
Naming intact.  No paraphasias. No dysarthria. Normal prosody. 
No apraxia. No evidence of hemineglect. No ___ confusion. 
Able to follow both midline and appendicular commands.

- Cranial Nerves: L/R pupil 3->2 and reactive. L eye 
hypertropia. Impaired downgaze in L eye, ___ L 
eye nystagmus with vertical eye mvmt. VF full to number 
counting. ___ without deficits to light touch bilaterally. No 
facial movement asymmetry. Hearing intact to finger rub 
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength 
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No pronator drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Ach]
 L  2+    1     1        2       1
 R  2+    1     1        2       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception 
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Not assessed 

DISCHARGE PHYSICAL EXAM: 
Vitals:  Tm 98.5, HR ___, BP ___, RR ___, >96%RA
General:  sitting up in bed, NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: RRR, well perfused
Abdomen: Soft, NT, ND 
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3.  Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No 
paraphasias. No dysarthria. Normal prosody. No apraxia. No 
evidence of hemineglect. No ___ confusion. Able to follow 
both midline and appendicular commands.

- Cranial Nerves: L/R pupil 4->2 and reactive. EOMI without 
nystagmus and no hypertropia apparent. Eye movements are 
conjugate. VFF. ___ without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No pronator drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Ach]
 L  2    1     1        2       1
 R  2    1     1        2       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Normal based, able to ambulate independently 
 
Pertinent Results:
___ 06:05AM BLOOD ___ 
___ Plt ___
___ 06:05AM BLOOD ___ ___
___ 06:05AM BLOOD ___ 
___
___ 05:30AM BLOOD ___ LD(LDH)-187 CK(CPK)-86 
___
___ 05:30AM BLOOD ___ cTropnT-<0.01
___ 06:05AM BLOOD ___
___ 05:30AM BLOOD ___
___ 05:30AM BLOOD ___
___ 05:30AM BLOOD ___

IMAGING: 
CT/CTA ___:
HCHCT: No acute intracranial abnormalities. 
    
CTA: Patent circle of ___ and its major tributaries without 
evidence of 
___ stenosis, occlusion or aneurysm. Patent neck 
vessels without 
evidence of flow limiting stenosis or dissection. 
  
MRI Brain ___: 
FINDINGS:  
A focal area of slow diffusivity with increased T2 and FLAIR 
signal in the 
left thalamus is consistent with a late acute to subacute 
lacunar infarction (06:15).  There is no evidence of hemorrhage, 
edema, masses, mass effect, midline shift or acute infarction.  
The ventricles and sulci are normal in caliber and 
configuration.  There is no abnormal enhancement after contrast 
administration.  Multiple mucous retention cysts are noted 
within bilateral maxillary sinuses.  The orbits are 
unremarkable, the mastoid air cells are clear. 
  
IMPRESSION: 
1. Focal late acute to subacute lacunar infarction of the left 
thalamus. 
2. No mass or abnormal enhancement. 

TTE ___:
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. There 
is mild regional left ventricular systolic dysfunction with 
apical septal, anterior, inferior and true apical 
hypo-/akinesis. Quantitative (biplane) LVEF = 55 %. A small 
thrombus is seen in the left ventricle. Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is no mitral valve prolapse. Trivial mitral regurgitation 
is seen. There is no pericardial effusion. 

 IMPRESSION: 
 1) Apical LV mass with appearance of subacute thrombus.
 2) Mild regional left ventricular systolic dysfunction c/w 
prior myocardial infarction in distal LAD territory.  

 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of HTN and HLD who 
presented with hyperacute onset of vertical diplopia worst on 
left lateral gaze, last known well at 1600 hrs on ___. There 
was also reported transient facial droop (unclear what side) as 
well as dysarthria from his son who called EMS upon pt report of 
diplopia, though the patient denied feeling dysarthric or that 
his face looked different on history. He was admitted to 
Neurology for further evaluation.  His symptoms had 
___ by that time.  His MRI showed a focal late acute 
to subacute lacunar infarction of the left thalamus.  Stroke 
labs were sent including HbA1c 5.1%, LDL 102 (after 2 wks on 
statin), TSH 1.4.  He then had a TTE that showed an apical LV 
mass with appearance of subacute thrombus as well as mild 
regional left ventricular systolic dysfunction c/w prior 
myocardial infarction in distal LAD territory; LVEF = 55%.  Due 
to the thrombus, which was likely the etiology of his stroke, he 
was started on anticoagulation with heparin and Coumadin 5mg 
qHS.  His goal INR is ___. He will continue on a lovenox bridge 
(1mg/kg BID = 70mg BID subcutaneously) until his INR is at goal. 
His PCP, ___ at ___, will manage 
the Coumadin (confirmed by the clinic today).  He will ___ 
with both Cardiology and Neurology.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium 500 + D (D3) (calcium ___ D3) 500 
mg(1,250mg) -125 unit oral DAILY 
2. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Enoxaparin Sodium 70 mg SC BID stroke and apical LV thrombus 

Start: Today - ___, First Dose: Next Routine Administration 
Time 
stop taking once INR at goal ___ 
RX *enoxaparin 100 mg/mL 70 mg subcutaneously twice a day Disp 
#*30 Syringe Refills:*1 
2.  Warfarin 5 mg PO DAILY16 stroke and apical LV thrombus 
goal INR ___ 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*5 
3.  Calcium 500 + D (D3) (calcium ___ D3) 500 
mg(1,250mg) -125 unit oral DAILY  
4.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stroke, apical left ventricular thrombus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Neurology service due to concern for 
acute onset double vision that resolved over a few hours.  You 
had a brain MRI that showed an acute stroke.  You had an Echo 
(ultrasound of the heart) that showed a clot, which was likely 
the cause of the stroke.  You will continue Coumadin for 
anticoagulation; you will also continue lovenox injections until 
your INR is between ___.  You will ___ with your Primary 
Care Provider to follow the Coumadin and adjust the medication 
as needed.  You will also have ___ with Neurology as 
scheduled below.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High cholesterol 
Family history of heart disease

We are changing your medications as follows:
START Coumadin 5mg daily
START Lovenox 70mg subcutaneous injection twice daily until your 
INR is at goal ___

Please take your other medications as prescribed.

Please ___ with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___